US08420865B2
Bromopyrene (5 mmol, 1.41 g) was charged and dissolved in THF (25 ml). After the solution was cooled to −78° C., n-BuLi (5.5 mmol, 2.08 ml, 2.64 M, 1.1 eq) was slowly added dropwise to the solution and the mixture was stirred for 2 hours. Then, diphenylphosphine chloride (5 mmol, 0.92 ml, 1 eq) was slowly added dropwise to the mixture, followed by stirring overnight. Saturated NH4Cl (10 mL) was added to the mixture. The THF layer was separated from the aqueous layer. The aqueous layer was extracted with dichloromethane (50 mL×3). The organic layer and the THF layer were combined. The resulting mixture was dried over sodium sulfate and concentrated on an evaporator. The residue was purified by silica gel column chromatography (developing solvent: dichloromethane:hexane=1:3). Thus, diphenylpyrenylphosphine (DPPP) was obtained (yield 39%) as white yellow crystals. The crystals were identified by 1H-NMR and 31P-NMR.

reactant | Bromopyrene | 5 mmol, 1.41 g | BrC1=CC=C2C=CC3=CC=CC4=CC=C1C2=C34 | C16H9Br
reactant | n-BuLi | 5.5 mmol, 2.64 M, 2.08 ml, 1.1 eq | [Li]CCCC
reactant | diphenylphosphine chloride | 5 mmol, 0.92 ml, 1 eq | [Cl-].C1(=CC=CC=C1)PC1=CC=CC=C1
reactant | NH4Cl | 10 mL | [NH4+].[Cl-]
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | diphenylpyrenylphosphine | yield 39% | C1(=CC=CC=C1)P(C1=CC=C2C=CC3=CC=CC4=CC=C1C2=C34)C3=CC=CC=C3 | C28H19P
